US05175301
A mixture of 3.9 g (0.0303 mole) of 5-amino-2-chloropyridine, 5.0 g of 1,1-bis(methylthio)-2-nitroethylene and 80 ml of ethylbenzene was heated at 130° C. for 2 hours. The ethylbenzene was distilled off under reduced pressure and the crystalline residue was washed with AcOEt and subjected to silica gel column chromatography using EtOH--CHCl3 (1:30) as the eluent to recover crude crystals. These crystals were recrystallized from AcOEt, washed with ether and dried. The procedure gave 0.5 g of 1-(6-chloro-3-pyridyl)amino-1-methylthio-2-nitroethylene as pale yellow crystals.

reactant | 5-amino-2-chloropyridine | 0.0303 mole, 3.9 g | NC=1C=CC(=NC1)Cl | C5H5ClN2
reactant | 1,1-bis(methylthio)-2-nitroethylene | 5.0 g | CSC(=C[N+](=O)[O-])SC | C4H7NO2S2
solvent | ethylbenzene | 80 ml | C(C)C1=CC=CC=C1 | C8H10
product | 1-(6-chloro-3-pyridyl)amino-1-methylthio-2-nitroethylene | 0.5 g | ClC1=CC=C(C=N1)NC(=C[N+](=O)[O-])SC | C8H8ClN3O2S
